US06593345B1
1-Acetyloxy-2-(3-methoxyphenyl)-6-methoxynaphthalene
A solution was prepared of 52.7 g (162 mmol) of 1-acetyloxy-2-(3-methoxyphenyl)-6-methoxy-3,4-dihydronaphthalene and 36.9 g (162 mmol) of DDQ in 500 mL of p-dioxane. The solution was heated to reflux for two hours under a nitrogen atmosphere. The reaction was allowed to cool and the solvent removed by evaporation. The residue was extracted by stirring in CHCl3 for sixteen hours, then filtering to remove the insoluble material. The CHCl3 extract was further purified by chromatography on a silica gel column eluted with CHCl3. This resulted in a red oil, which was suspended in MeOH and crystallized at −70° C. This yielded 46.5 g of the title compound as a low melting solid.

reactant | 1-acetyloxy-2-(3-methoxyphenyl)-6-methoxy-3,4-dihydronaphthalene | 162 mmol, 52.7 g | C(C)(=O)OC1=C(CCC2=CC(=CC=C12)OC)C1=CC(=CC=C1)OC | C20H20O4
reactant | DDQ | 162 mmol, 36.9 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | p-dioxane | 500 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
product | 1-Acetyloxy-2-(3-methoxyphenyl)-6-methoxynaphthalene | C(C)(=O)OC1=C(C=CC2=CC(=CC=C12)OC)C1=CC(=CC=C1)OC | C20H18O4
